US08648096B2
A solution of methyl-carbamic acid t-butyl ester (5.0 g, 38.0 mmol) in DMF (50 mL) was chilled in an ice bath, and NaH (60%, 1.7 g, 41.8 mmol) was added in portions at 10C. The mixture was stirred for an additional 30 minutes. A solution of 3-bromomethyl-phthalic acid dimethyl ester (10.9 g, 38.0 mmol) in DMF (20 mL) was slowly added, keeping the temperature at 10-15° C. The resulting mixture was stirred at room temperature overnight. The mixture was poured into ice water (400 mL) and extracted with EtOAc (4×70 mL). The combined EtOAc extracts were washed with water (3×50 mL) and brine (50 mL), and dried (MgSO4). The solvent was removed in vacuo, and the residue was purified by flash chromatography (SiO2, Hexane:EtOAc 8:2) to give 3-[(t-butoxycarbonyl-methyl-amino)-methyl]-phthalic dimethyl ester (7.7 g, 60%) as an oil: 1H NMR (CDCl3) δ 7.93-7.89 (m, 1H), 7.49-7.46 (m, 2H), 4.46 (s, 2H), 3.94 (s, 3H), 3.89 (s, 3H), 2.87-2.76 (b, 3H), 1.49-1.42 (b, 9H).

reactant | methyl-carbamic acid t-butyl ester | 38.0 mmol, 5.0 g | C(C)(C)(C)OC(NC)=O | C6H13NO2
reactant | NaH | 41.8 mmol, 1.7 g | [H-].[Na+]
reactant | 3-bromomethyl-phthalic acid dimethyl ester | 38.0 mmol, 10.9 g | COC(C=1C(C(=O)OC)=C(C=CC1)CBr)=O | C11H11BrO4
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 3-[(t-butoxycarbonyl-methyl-amino)-methyl]-phthalic dimethyl ester | 7.7 g, 60% | COC(C=1C(C(=O)OC)=C(C=CC1)CN(C)C(=O)OC(C)(C)C)=O | C17H23NO6
